US04576905
Benzyl trifluoromethanesulfonate was prepared in carbon tetrachloride solution and used as a dried solution in Examples 53 through 55, in the same way the 2-propen-1-yl trifluoromethanesulfonate was prepared and used in Examples 41 through 44, starting with benzyl alcohol and trifluoromethanesulfonic anhydride.

reactant | 2-propen-1-yl trifluoromethanesulfonate | FC(S(=O)(=O)OCC=C)(F)F | C4H5F3O3S
reactant | benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
reactant | trifluoromethanesulfonic anhydride | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | Benzyl trifluoromethanesulfonate | FC(S(=O)(=O)OCC1=CC=CC=C1)(F)F | C8H7F3O3S
